US03951952
a. N-Ethyl-carboethoxyacetamide
To 15.0 g. (0.1 mole) of carboethoxyacetyl chloride in 150 ml. of benzene is added, with cooling, 9.9 g. (0.22 mole) of ethylamine in 50 ml. of the same solvent. The reaction mixture is allowed to stir at room temperature overnight, followed by filtration. The filtrate is washed with water, dried over sodium sulfate and concentrated to dryness. The residual product is washed several times with diisopropyl ether and dried in vacuo. The crude product is employed in the next reaction without further purification.

reactant | carboethoxyacetyl chloride | 0.1 mole | C(=O)(OCC)CC(=O)Cl | C5H7ClO3
reactant | ethylamine | 0.22 mole | C(C)N | C2H7N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-Ethyl-carboethoxyacetamide | C(C)NC(CC(=O)OCC)=O | C7H13NO3
